US06727264B1
N-{3-[1-({2,5-DIMETHYL-1-[3-(TRIFLUOROMETHYL)PHENYL]-1H-PYRROL-3-YL}METHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 2,5-dimethyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 498.2 (M+H)+.

reactant | 2,5-dimethyl-1-[3-(trifluoromethyl)phenyl]-1H-pyrrole-3-carbaldehyde | CC=1N(C(=CC1C=O)C)C1=CC(=CC=C1)C(F)(F)F | C14H12F3NO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-({2,5-DIMETHYL-1-[3-(TRIFLUOROMETHYL)PHENYL]-1H-PYRROL-3-YL}METHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | CC=1N(C(=CC1CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C)C1=CC(=CC=C1)C(F)(F)F | C29H34F3N3O
